US05162347
(1) Preparation of N-methyl-N-benzyl(6-methyl-2-pyridyl)ethylamine
0.5 ml of glacial acetic acid was added to a solution of 10.0 g (84.0 mmol) of 6-methyl-2-vinylpyridine and 10.2 g (84 mmol) of N-methylbenzylamine in 100 ml of a mixture of methanol with water (1:1) and the mixture thus obtained was refluxed for 8 h. The mixture was concentrated and the residue was purified by silica gel column chromatography (chloroform/methanol/aqueous ammonia=97:3:0.3). A fraction containing the intended compound was concentrated to give the compound in the form of an oil.

reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | 6-methyl-2-vinylpyridine | 84.0 mmol, 10.0 g | CC1=CC=CC(=N1)C=C | C8H9N
reactant | N-methylbenzylamine | 84 mmol, 10.2 g | CNCC1=CC=CC=C1 | C8H11N
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | N-methyl-N-benzyl(6-methyl-2-pyridyl)ethylamine | CN(CC1=CC=CC=C1)CCC1=NC(=CC=C1)C | C16H20N2
